US07572801B2
A solution of 2-chloro-5-fluoro-nicotinamide (70 mg, 0.40 mmol) and 4-methoxybenzylamine (550 mg, 4.01 mmol) in ethyleneglycol (1 ml) was microwaved for 50 min at 140° C. A white solid was filtered off and the filtrate evaporated. The residue was dissolved in EtOAc, washed with water and brine, dried over MgSO4 and the solvent removed under reduced pressure. The residue was purified by column chromatography (silica gel, EtOAc/heptane, 1/1) to obtain 5-fluoro-2-(4-methoxy-benzylamino)-nicotinamide (56 mg, 0.2 mmol; 51%) as white solid. MS (m/e): 276.3 [M+H+].

reactant | 2-chloro-5-fluoro-nicotinamide | 0.40 mmol, 70 mg | ClC1=C(C(=O)N)C=C(C=N1)F | C6H4ClFN2O
reactant | 4-methoxybenzylamine | 4.01 mmol, 550 mg | COC1=CC=C(CN)C=C1 | C8H11NO
solvent | ethyleneglycol | 1 ml | C(CO)O | C2H6O2
product | 5-fluoro-2-(4-methoxy-benzylamino)-nicotinamide | 0.2 mmol, 56 mg, 51% | FC=1C=NC(=C(C(=O)N)C1)NCC1=CC=C(C=C1)OC | C14H14FN3O2
